US07572809B2
e) Preparation of 1-Chloro-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carbonitrile
A mixture of 1-Hydroxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid amide (0.4 g, 1.28 mmol) in POCl3 (10 ml) was sealed in microwave process vial (20 ml). The mixture was heated at 130° C. for 30 minutes under microwave irradiation. The mixture was concentrated, and the residue was poured into ice water, and the precipitate was collected and purified by preparative HPLC to give product (0.28 g, 70%). LC-MS: m/e 314 (MH+).

reactant | 1-Hydroxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid amide | 1.28 mmol, 0.4 g | OC1=NC(=CC2=CC(=C(C=C12)C(=O)N)OC)NC1=NNC(=C1)C | C15H15N5O3
reactant | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carbonitrile | 0.28 g, 70% | ClC1=NC(=CC2=CC(=C(C=C12)C#N)OC)NC1=NNC(=C1)C | C15H12ClN5O
